US04512795
1 part of NaH was added, a little at a time, to 5 parts of 9-hydroxy-3,4-diazatricyclo[4,2,1,02,5 ]nona-3,7-diene and 100 parts of acetonitrile at 20° C., while stirring. Thereafter, 20 parts of methyl iodide were added and stirring was continued for 12 hours at 20° C. The reaction mixture was evaporated down in a rotary evaporator at from 20° to 50° C. and under 20 mbar, and the residue was extracted with 200 parts of petroleum ether. The petroleum ether phase was evaporated down to give 5 parts (90 mole %) of 9-methoxy-3,4-diazatricyclo[4,2,1,02,5 ]-nona-3,7-diene as an oil. 1H-NMR (δ in ppm): 6.2 (bs, 2H), 4.1 (bs, 2H), 3.1-3.3 (m, 6H).

reactant | NaH | [H-].[Na+]
reactant | 9-hydroxy-3,4-diazatricyclo[4,2,1,02,5 ]nona-3,7-diene | OC1C2C3N=NC3C1C=C2 | C7H8N2O
reactant | methyl iodide | CI | CH3I
solvent | acetonitrile | C(C)#N | C2H3N
product | 9-methoxy-3,4-diazatricyclo[4,2,1,02,5 ]-nona-3,7-diene | COC1C2C3N=NC3C1C=C2 | C8H10N2O
